US04873329
t-Butyl-lithium (1.1 ml. of a 1.8 molar solution in diethyl ether) was added dropwise to a solution of trans-1-bromo-2-(3,4-dichlorophenyl)cyclopropane (0.53 g.) In a mixture of diethyl ether (18 ml.) and tetrahydrofuran (2 ml.) which was maintained at -100° C., and the mixture was stirred at that temperature for 1 hour. A solution of 1,1,1-trifluoro-4-trimethylsilylbut-3-yn-2-one (0.39 g.) in tetrahydrofuran (5 ml.) was added dropwise, the mixture was stirred at -100° C. for 2 hours and a mixture of methanol (1 ml.) and aqueous 2N-hydrochloric acid (1 ml.) was added. The mixture was allowed to warm up to laboratory temperature and was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium chloride solution, dried over magnesium sulphate and evaporated to dryness under reduced pressure. Tetra-n-butylammonium fluoride (0.16 g.) was added to a stirred solution of the residue in tetrahydrofuran (25 ml.) and the mixture was stirred at laboratory temperature for 4 hours, diluted with water (100 ml.) and extracted with ethyl acetate. The extract was washed with saturated aqueous sodium chloride solution, dried over magnesium sulphate and evaporated to dryness under reduced pressure. The residue was purified by chromatography on a silica gel column using an 11:9 v/v mixture of petroleum ether (b.p. 60°-80° C.) and methylene chloride as eluant. There was thus obtained as an oil 2-[2-(3,4-dichlorophenyl)cyclopropyl]-1,1,1-trifluorobut-3-yn-2-ol.

reactant | t-Butyl-lithium | C(C)(C)(C)[Li]
reactant | trans-1-bromo-2-(3,4-dichlorophenyl)cyclopropane | 0.53 g | Br[C@H]1[C@@H](C1)C1=CC(=C(C=C1)Cl)Cl | C9H7BrCl2
reactant | 1,1,1-trifluoro-4-trimethylsilylbut-3-yn-2-one | 0.39 g | FC(C(C#C[Si](C)(C)C)=O)(F)F | C7H9F3OSi
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 18 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | methanol | 1 ml | CO | CH4O
product | 2-[2-(3,4-dichlorophenyl)cyclopropyl]-1,1,1-trifluorobut-3-yn-2-ol | ClC=1C=C(C=CC1Cl)C1C(C1)C(C(F)(F)F)(C#C)O | C13H9Cl2F3O
